US08372867B2
A solution of 5-(3,5-dichlorophenyl)-3-(4-methylphenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (5.3 g), N-bromosuccinimide (3.7 g) and 2,2′-azobisisobutylonitrile (0.1 g) in dichloroethane (40 mL) was heated to reflux for 3 hours. After the solvent was distilled off under reduced pressure, the residue was diluted with t-butylmethylether, and the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to obtain 3-[4-(bromomethyl)phenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (2.5 g).

reactant | 5-(3,5-dichlorophenyl)-3-(4-methylphenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 5.3 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)C)C(F)(F)F | C17H12Cl2F3NO
reactant | N-bromosuccinimide | 3.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
product | 3-[4-(bromomethyl)phenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 2.5 g | BrCC1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H11BrCl2F3NO
